US04528371
To a stirred suspension of 2-hydroxy-4-oxo-4-(2-hydroxyphenyl)butyric acid in water was added ammonia until pH 7.0 was attained. Hydrazine was added slowly with the concurrent addition of sufficient glacial acetic acid to maintain a pH of 7.0. Steam heating was applied for 2 hours and during this time the pH of 7.0 was maintained by the addition of ammonia as necessary. The reaction mixture was allowed to cool to room temperature. The solid was filtered off, washed with water, 2-propanol and dried (MgSO4) to afford 6-(2-hydroxyphenyl)-3(2H)-pyridazinone (85%).

reactant | 2-hydroxy-4-oxo-4-(2-hydroxyphenyl)butyric acid | OC(C(=O)O)CC(C1=C(C=CC=C1)O)=O | C10H10O5
reactant | ammonia | N | H3N
reactant | Hydrazine | NN | H4N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-(2-hydroxyphenyl)-3(2H)-pyridazinone | 85% | OC1=C(C=CC=C1)C=1C=CC(NN1)=O | C10H8N2O2
